US07902367B2
Step 5c) 2-[3-[[2-(4-Chlorophenyl)-4-methylthiazol-5-yl]methoxymethyl]piperidin-1-yl]benzaldehyde
Using 3-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]methoxymethyl]piperidine (106 mg, 0.315 mmol) and 2-fluorobenzaldehyde (0.0329 mL, 0.315 mmol), the same procedure was followed as in Step 1c of Example 1 to give 45.2 mg (32%) of the desired compound as a colorless oil.

reactant | 3-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]methoxymethyl]piperidine | 0.315 mmol, 106 mg | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)COCC1CNCCC1 | C17H21ClN2OS
reactant | 2-fluorobenzaldehyde | 0.315 mmol, 0.0329 mL | FC1=C(C=O)C=CC=C1 | C7H5FO
product | 2-[3-[[2-(4-Chlorophenyl)-4-methylthiazol-5-yl]methoxymethyl]piperidin-1-yl]benzaldehyde | 45.2 mg, 32% | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)COCC1CN(CCC1)C1=C(C=O)C=CC=C1 | C24H25ClN2O2S
